US07192968B2
(3R)-1-Benzyl-3-(tert-butyldiphenyl-silyloxy)pyrrolidine (1.18 g) was dissolved in methanol (12 ml), 1N hydrochloric acid (240 μl) and palladium hydride (221 mg) were added, and hydrogen was introduced to conduct catalytic reduction under normal pressure at room temperature for 4.5 hours. The catalyst was removed by filtration, and the filtrate was concentrated to solid under reduced pressure to obtain crude (3R)-3-(tert-butyldiphenyl-silyloxy)pyrrolidine hydrochloride (984 mg).

reactant | (3R)-1-Benzyl-3-(tert-butyldiphenyl-silyloxy)pyrrolidine | 1.18 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C27H33NOSi
reactant | hydrochloric acid | 1N, 240 μl | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 12 ml | CO | CH4O
catalyst | palladium hydride | 221 mg | [PdH2]
product | (3R)-3-(tert-butyldiphenyl-silyloxy)pyrrolidine hydrochloride | 984 mg | Cl.C(C)(C)(C)[Si](O[C@H]1CNCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H27NOSi.ClH/c1-20(2,3)23(18-10-6-4-7-11-18,19-12-8-5-9-13-19)22-17-14-15-21-16-17;/h4-13,17,21H,14-16H2,1-3H3;1H/t17-;/m1./s1
